* Subcircuit Buffer
.subckt Buffer net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ 
* c:\fossee\esim\library\subcircuitlibrary\buffer\buffer.cir
.include NOT.sub
x1 net-_u1-pad1_ net-_x1-pad2_ net-_u1-pad3_ net-_u1-pad4_ NOT
x2 net-_x1-pad2_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ NOT
* Control Statements

.ends Buffer